resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.037471
R2 0 n2 0.996883
R3 0 n4 0.997016
R4 n1 n3 1.008476
R5 n1 n5 9.832215
R6 n2 n3 0.996571
R7 n2 n6 0.987928
R8 n3 n7 0.993188
R9 n4 n5 1.019676
R10 n4 n6 1.008337
R11 n5 n7 0.983772
R12 n6 n7 0.986937
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
